US08871792B2
(R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid 2,2,3,3,3-pentafluoropropyl Ester
A mixture of (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid (30.0 mg, 57 μmol), EDC HCl (65.4 mg, 341 μmol), and HOBt hydrate (52.2 mg, 341 μmol) in DCM (0.5 mL, 8 mmol) was stirred at room temperature for 10 minutes. 2,2,3,3,3-Pentafluoro-1-propanol (45.3 μL, 455 μmol) was added and the resulting mixture was stirred at room temperature for 1 hour then concentrated. The residue was dissolved in AcOH (2 mL), filtered, and purified by reverse phase prep HPLC to yield the title compound (4.8 mg, purity 90.2%) as a TFA salt. MS m/z [M+H]+ calc'd for C29H21ClF7N3O5, 660.11. found 660.3.

reactant | (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid | 57 μmol, 30.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)C[C@H](C(=O)O)O)F | C26H20ClF2N3O5
reactant | EDC HCl | 341 μmol, 65.4 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt hydrate | 341 μmol, 52.2 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | DCM | 8 mmol, 0.5 mL | C(Cl)Cl | CH2Cl2
reactant | 2,2,3,3,3-Pentafluoro-1-propanol | 455 μmol, 45.3 μL | FC(CO)(C(F)(F)F)F | C3H3F5O
product | (R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid 2,2,3,3,3-pentafluoropropyl Ester | 4.8 mg | FC(COC([C@@H](CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O)(C(F)(F)F)F | C29H21ClF7N3O5
